US04808578
To a suspension of 8.5 g of 17β-acetoxy-3,3-ethylenedioxy-estr-5(10)-ene in 130 ml of dimethylformamide and 40 ml of water, 2.35 g of powdered CaCO3 and 8.39 g of N-bromosuccinimide are added at room temperature. After stirring for 4 hours at room temperature, the yellow suspension is poured into ice-water and the precipitate filtered on buckner; the precipitate is dissolved in methylene chloride and the insoluble residue is filtered off; the filtrate is washed with water and dried over anhydrous sodium sulphate. Evaporation of the solvent yields 10.7 g of 17β-acetoxy-3,3-ethylenedioxy-5α-hydroxy-10β-bromo-estrane as a white solid material,

reactant | 17β-acetoxy-3,3-ethylenedioxy-estr-5(10)-ene | 8.5 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3CC4(CCC3[C@H]1CC2)OCCO4 | C22H32O4
reactant | CaCO3 | 2.35 g | C(=O)([O-])[O-].[Ca+2]
reactant | N-bromosuccinimide | 8.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | water | 40 ml | O | H2O
product | 17β-acetoxy-3,3-ethylenedioxy-5α-hydroxy-10β-bromo-estrane | 10.7 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC[C@]3(CC4(CC[C@@]3([C@H]1CC2)Br)OCCO4)O | C22H33BrO5
